US08404684B2
1-(5-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-6-methyl-pyrimidin-4-yl}-4-methyl-thiazol-2-yl)-3-[2-(1-ethyl-1H-imidazol-4-yl)-ethyl]-urea
This material is prepared from 1-[2-(1-ethyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea and N,N,N′-trimethyl-ethane-1,2-diamine using the protocol described for Example 42 but replacing DMF by dioxane.

reactant | 1-[2-(1-ethyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | C(C)N1C=NC(=C1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)C | C18H23N7O2S2
reactant | N,N,N′-trimethyl-ethane-1,2-diamine | CN(CCNC)C | C5H14N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(5-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-6-methyl-pyrimidin-4-yl}-4-methyl-thiazol-2-yl)-3-[2-(1-ethyl-1H-imidazol-4-yl)-ethyl]-urea | CN(CCN(C1=NC(=CC(=N1)C1=C(N=C(S1)NC(=O)NCCC=1N=CN(C1)CC)C)C)C)C | C22H33N9OS
